US07592477B2
Step a) Formation of 4-acetyl-N-dodecylbenzamide
The same procedure as employed in the preparation of Example 10 (step a) but using 4-acetylbenzoic acid and dodecylamine gave the title compound as a white solid (54%). 1H NMR (CDCl3, 300 MHz) δ 8.00-7.90 (m, 2H), 7.85-7.71 (m, 2H), 6.05 (br s, 1H), 3.41-3.30 (m, 2H), 2.56 (s, 1.5H), 2.54 (s, 1.5H), 1.63-1.73 (m, 2H), 1.72-1.05 (m, 18H), 0.78 (m, 3H). M−(LC/MS(ESI)): 330.4; M+(LC/MS(ESI)): 332.4. HPLC (Condition A), Rt: 5.87 min (HPLC purity: 99.7%).

reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
product | 4-acetyl-N-dodecylbenzamide | 54% | C(C)(=O)C1=CC=C(C(=O)NCCCCCCCCCCCC)C=C1 | C21H33NO2
